US07148226B2
1-(3-Bromo-phenyl)-cyclopropanecarboxylic acid methyl ester
A solution of (3-Bromo-phenyl)-acetic acid methyl ester (4.54 g, 20 mmol) dissolved in dry THF (10 mL) was added dropwise to suspension of NaH (95% dry, 1.05 g, 44 mmol) in DMF (40 mL) and THF (10 mL), under a nitrogen atmosphere, at 0° C. After 30 min, gas evolution ceased, and 1,2-dibromoethane (3.79 mL, 44 mmol) was added dropwise over 20 min. The resulting mixture was stirred for 1 h, then quenched with 1N HCl, extracted with ether, washed with brine, dried over MgSO4, and stripped of solvent. The resulting oil was distilled under high vacuum. The product was collected between 95° C. and 105° C. Yield 2 g, 39%.

reactant | (3-Bromo-phenyl)-acetic acid methyl ester | 20 mmol, 4.54 g | COC(CC1=CC(=CC=C1)Br)=O | C9H9BrO2
reactant | NaH | 44 mmol, 1.05 g | [H-].[Na+]
reactant | 1,2-dibromoethane | 44 mmol, 3.79 mL | BrCCBr | C2H4Br2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(3-Bromo-phenyl)-cyclopropanecarboxylic acid methyl ester | COC(=O)C1(CC1)C1=CC(=CC=C1)Br | C11H11BrO2
